US05015740
A mixture of 8 parts of 6-(2-bromoethyl)-2,3-dihydro-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one monohydrobromide, 4.8 parts of 1-[(2,4-difluorophenyl)(hydroxyimino)methyl]piperazine, 8 parts of sodium hydrogen carbonate and 180 parts of 4-methyl-2-pentanone was stirred for 20 hours at reflux temperature. The reaction mixture was filtered while hot and the filtrate was evaporated in vacuo. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was concentrated in vacuo. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 4.4 parts (50.5%) of 6-[2-[4-[(2,4-difluorophenyl)-(hydroxyimino)methyl]-1-piperazinyl]ethyl]-2,3-dihydro-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one (int. 13).

reactant | 6-(2-bromoethyl)-2,3-dihydro-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one monohydrobromide | Br.BrCCC1=C(N=C2N(C1=O)CCS2)C
reactant | 1-[(2,4-difluorophenyl)(hydroxyimino)methyl]piperazine | FC1=C(C=CC(=C1)F)C(N1CCNCC1)=NO | C11H13F2N3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 6-[2-[4-[(2,4-difluorophenyl)-(hydroxyimino)methyl]-1-piperazinyl]ethyl]-2,3-dihydro-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | 50.5% | FC1=C(C=CC(=C1)F)C(N1CCN(CC1)CCC1=C(N=C2N(C1=O)CCS2)C)=NO | C20H23F2N5O2S
